US07141569B2
3-[2-(Cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-(2-methoxyethyl)pyrazolo[1,5-α]pyridin-5-amine.
4-[5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (0.1 g, 0.25 mmol) and 2-methoxyethylamine were treated with rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, cesium carbonate and palladium (II) acetate as described in Example 2 to give, after purification by flash chromatography (1:1 hexanes-ethyl acetate), 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-(2-methoxyethyl)pyrazolo[1,5-α]pyridin-5-amine (65 mg, 59%) as a solid. 1H-NMR (CDCl3): δ 8.2 (d, 1H), 7.9 (d, 1H), 7.55 (m, 2H), 7.4 (m, 1H), 7.1 (t, 2H), 6.32 (dd, 1H), 6.2 (d, 1H), 5.3 (broad s, 1H), 4.54 (t, 1H), 4.4 (m, 1H), 3.65 (m, 2H), 3.4 (s, 3H), 3.35 (m, 2H), 2.1 (m, 2H), 1.5–1.8 (m, 6H); 19F-NMR (CDCl3): δ −113.46; MS m/z 447 (M+1).

reactant | 4-[5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.25 mmol, 0.1 g | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C22H19ClFN5
reactant | 2-methoxyethylamine | COCCN | C3H9NO
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-(Cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-(2-methoxyethyl)pyrazolo[1,5-α]pyridin-5-amine | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2)NCCOC)C2=CC=C(C=C2)F | C25H27FN6O
